US20010027196A1
To a stirred suspension of 1.00 g (4.62 mmol) 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile in 10 ml DME were added 642 mg (4.62 mmol) 2-mercapto-ethylpyridine and 1.05 ml (6.92 mmol) DBU and stirring continued for 1 hour at room temperature. 50 ml water was then added and the resulting crystals collected by filtration and washed with ether. Chromatography (ethyl acetate/hexane 111 then ethyl acetate) followed by trituration in ether afforded 300 mg (22%) 2-amino-4-chloro-6-(2-pyridin-2-yl-ethylsuifanyl)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 294 (M{37Cl}+H+, 30), 292 (M{35Cl}+H+, 100).

reactant | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | 4.62 mmol, 1.00 g | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
reactant | 2-mercapto-ethylpyridine | 4.62 mmol, 642 mg | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | 6.92 mmol, 1.05 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 50 ml | O | H2O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-4-chloro-6-(2-pyridin-2-yl-ethylsuifanyl)-pyrimidine-5-carbonitrile | 300 mg, 22% | NC1=NC(=C(C(=N1)Cl)C#N)SCCC1=NC=CC=C1 | C12H10ClN5S
